US06544985B2
(4-Chloro-5-isopropylamino-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-isopropylamino-phenyl)-carbamic acid tert-butyl ester (Example J40) (300 mg, 1.0 mmol) and 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K4) (301 mg, 1.0 mmol) according to the general procedure M. Obtained as a light brown foam (169 mg, 32%).

reactant | (2-amino-4-chloro-5-isopropylamino-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 300 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NC(C)C)Cl)N)=O | C14H22ClN3O2
reactant | 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 301 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O | C17H19NO4
product | (4-Chloro-5-isopropylamino-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NC(C)C)Cl)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C27H31ClN4O5
